US06900337B2
Preparation of 5-Methyl-1-Hexyl-2-Pyrrolidone (HxP)
The feedstock used in examples 31 through 38 was 30% of the ammonium salt of levulinic acid, 26% hexylamine, and 24% water by weight. The temperature and pressure of the reactions were maintained at 150° and 6.9 MPa. Water was used as the solvent medium for the reactions. The results are set forth in the following table.

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | hexylamine | C(CCCCC)N | C6H15N
solvent | Water | O | H2O
product | 5-Methyl-1-Hexyl-2-Pyrrolidone | CC1CCC(N1CCCCCC)=O | C11H21NO
